US08808703B2
Step 10: diethyl ((14R,18R)-14-amino-18-dodecanamido-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontyl)phosphonate
To a solution of ((9H-fluoren-9-yl)methyl((14R,18R)-1-(diethoxyphosphoryl)-18-dodecanamido-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontan-14-yl)carbamate (1 eq) was added 20% piperidine (50 eq) in 4:1 THF/DMF. The resulting solution was stirred for 15 minutes at 25° C. and then concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-10% MeOH/DCM to give the title product as a white solid.

reactant | (9H-fluoren-9-yl)methyl((14R,18R)-1-(diethoxyphosphoryl)-18-dodecanamido-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontan-14-yl)carbamate | 1 eq | C1=CC=CC=2C3=CC=CC=C3C(C12)OC(N([C@H](C(NCCOCCOCCOCCP(=O)(OCC)OCC)=O)CSC[C@@H](COCCCCCCCCCCCC)NC(CCCCCCCCCCC)=O)C)=O | C57H96N3O11PS
reactant | piperidine | 50 eq | N1CCCCC1 | C5H11N
solvent | THF DMF | C1CCOC1.CN(C)C=O
product | diethyl ((14R,18R)-14-amino-18-dodecanamido-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontyl)phosphonate | N[C@H](C(NCCOCCOCCOCCP(OCC)(OCC)=O)=O)CSC[C@@H](COCCCCCCCCCCCC)NC(CCCCCCCCCCC)=O | C42H86N3O9PS
